US05220018
A) 3-Nitro-(1H-tetrazol-5-yl)benzene (1)
Nitrobenzonitrile (5 g) was dissolved in 50 ml of dry N,N-dimethylformamide and mixed with 10.97 g of sodium azide and 9.03 g ammonium chloride. The resulting suspension was heated to 110° C. for 18 hours. The reaction mixture was concentrated in vacuo and the residue was dissolved in water (50 ml). The aqueous solution was washed with ethyl acetate and acidified with 1 N HCl solution. The aqueous phase was then extracted with ethyl acetate and the organic extracts were dried (sodium sulfate) and concentrated to give 8.5 g of the title compound as a white solid.

reactant | Nitrobenzonitrile | 5 g | [N+](=O)([O-])C1=C(C#N)C=CC=C1 | C7H4N2O2
reactant | sodium azide | 10.97 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 9.03 g | [Cl-].[NH4+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Nitro-(1H-tetrazol-5-yl)benzene | 8.5 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NN=NN1 | C7H5N5O2
